US04826982
Ethyl 3-bromo-2,4,5-trifluorobenzoylacetate
To an emulsion of diethyl 3-bromo-2,4,5-trifluorobenzoylmalonate (3.25 g) in water (4 ml) was added p-toluenesulfonic acid (4 mg) and refluxed for 3 hours with vigorous stirring. After cooling, the reaction mixture was extracted with dichloromethane (8 ml×4). The organic layer was washed with water saturated with sodium chloride, dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from dichloromethane-n-hexane to give the title compound (1.51 g), mp 85°-88° C.

reactant | diethyl 3-bromo-2,4,5-trifluorobenzoylmalonate | 3.25 g | BrC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1F)F)F | C14H12BrF3O5
reactant | p-toluenesulfonic acid | 4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 4 ml | O | H2O
product | Ethyl 3-bromo-2,4,5-trifluorobenzoylacetate | 1.51 g | BrC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8BrF3O3
